US09163021B2
2-(4-Chloro-phenyl)-N-{5-[7-fluoro-1-(2-hydroxy-1,1-dimethyl-ethyl)-1H-pyrrolo[3,2-c]pyridine-3-carbonyl]-pyridin-3-yl}-acetamide
To a solution of N-(5-{1-[2-(tert-Butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridine-3-carbonyl}-pyridin-3-yl)-2-(4-chloro-phenyl)-acetamide (Preparation 2, 35 mg, 70 μmol) in THF (2 mL) 4M dioxane-HCl (0.2 mL) was added and stirred at room temperature for 4 hours. The reaction was evaporated in vacuo and triturated with pentane-ether to afford the title compound as a white solid in 88% yield, 25 mg.

reactant | N-(5-{1-[2-(tert-Butyl-dimethyl-silanyloxy)-1,1-dimethyl-ethyl]-7-fluoro-1H-pyrrolo[3,2-c]pyridine-3-carbonyl}-pyridin-3-yl)-2-(4-chloro-phenyl)-acetamide | 70 μmol, 35 mg | C(C)(C)(C)[Si](OCC(C)(C)N1C=C(C=2C=NC=C(C21)F)C(=O)C=2C=C(C=NC2)NC(CC2=CC=C(C=C2)Cl)=O)(C)C | C31H36ClFN4O3Si
solvent | THF | 4M, 2 mL | C1CCOC1 | C4H8O
product | 2-(4-Chloro-phenyl)-N-{5-[7-fluoro-1-(2-hydroxy-1,1-dimethyl-ethyl)-1H-pyrrolo[3,2-c]pyridine-3-carbonyl]-pyridin-3-yl}-acetamide | 88% yield | ClC1=CC=C(C=C1)CC(=O)NC=1C=NC=C(C1)C(=O)C1=CN(C2=C1C=NC=C2F)C(CO)(C)C | C25H22ClFN4O3
